US07615635B2
A solution of diethyl malonate (36.91 g, 230.4 mmol), anhydrous methanol (400 mL), and NaOMe (25% in methanol, 49.79 g, 230.4 mmol) is stirred at reflux for one hour under nitrogen. Bromomethyl-cyclopentane (31.31 g, 192.0 mmol) is added to the mixture, and stirred for an additional 3 hours. A solution of NaOH (23.04 g, 576.0 mmol) in water (400 mL) is added, and the mixture is stirred for an additional 1 hour at reflux. The mixture is cooled, diluted with water, and extracted with ether. The ether layer is discarded, and the aqueous layer is acidified with 1N HCl to pH=1. The aqueous layer is extracted with EtOAc. The EtOAc layers are combined, dried over Na2SO4, and concentrated. This gives 2-cyclopentylmethyl-malonic acid (21.0 g, 59% yield) as a white solid.

reactant | diethyl malonate | 230.4 mmol, 36.91 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaOMe | 230.4 mmol, 49.79 g | C[O-].[Na+]
reactant | Bromomethyl-cyclopentane | 192.0 mmol, 31.31 g | BrCC1CCCC1 | C6H11Br
reactant | NaOH | 576.0 mmol, 23.04 g | [OH-].[Na+]
solvent | water | 400 mL | O | H2O
solvent | methanol | 400 mL | CO | CH4O
product | 2-cyclopentylmethyl-malonic acid | 21.0 g, 59% yield | C1(CCCC1)CC(C(=O)O)C(=O)O | C9H14O4
